Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fevers, cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with mild untreated psoriasis and otherwise 
healthy presenting with cough/fever/myalgias and fatigue for the 
past 3 weeks. He had labs drawn at PCP's office significant for 
leukocytosis and CXR with LUL lung mass felt to be likely a 
cavitary abscess.

He was seen at his PCP's on ___ for symptoms related to a URI 
including headache, sore throat and myalgias. He was sick for 
___ days and then symptoms resolved. He felt fine for a few days 
and then again developed headache, chills, myalgias and cough. 
Then symptoms resolved. Again, a few days later, he developed 
another cough, myalgias and had headache with fever to 102. He 
went back to his PCP's on ___ with persistent flu like 
symptoms and night sweats.
Labs were taken at that time.

Mr. ___ was born in the ___, has never been homeless or in 
prison/army, no recent travel out of the country, UTD on 
vaccinations, a never smoker, minimal drinker, and no IVDU 
history,  Pt has had night sweats as well and cough. No 
rhinorrhea, sore throat, vom, diarrhea, or abd pain. He endroses 
left sided chest pain when he coughs, and pain in the back when 
he coughs. Taking advil for symptoms.

 
Past Medical History:
Chronic low back pain
Psoriasis
Knee surgery
White coat syndrome   
 
Social History:
___
Family History:
Mother: ___
Father HTN, HLD, ___
 
Physical Exam:
ADMISSION
==========

VITAL SIGNS: 98.7 PO 114 / 67 83 20 97 RA   
GENERAL: NAD, pleasant
HEENT: PERRL, EOMI, NCAT, dry MM
NECK: no JVD, no cervical LAD 
CARDIAC: rrr, s1/s2, no mgr
LUNGS: ctabl no w/c/r
ABDOMEN: soft, ND/NT, no rebound/guarding
EXTREMITIES: +DPP, no ___ edema b/l
NEUROLOGIC: sensation/motor grossly intact
SKIN: large psoriasis plaques on Rt leg and Lt flank
LYMPH: no cervical, supraclavicular, inguinal, axillary LAD

DISCHARGE
==========

Vitals: 98.7 PO 110 / 69 89 95% RA
General: A&O x3, pleasant male in NAD; found lying in bed 
ordering his breakfast
HEENT: Sclera anicteric, gaze conjugate; no lymphadenopathy or 
thyromegaly appreciated  
Lungs: Lungs clear to auscultation bilaterally
CV: Prominent S1 + S2, RRR; no murmurs, rubs, or gallops 
appreciated
Abdomen: Soft and non-tender; bowel sounds appreciated; no 
tenderness to light or deep palpation
Ext: Warm and well perfused, distal pulses 2+ at posterior 
tibials
Neuro: A&O x3, CN II-XII grossly intact 
Skin: Plaques with silvery scale on erythematous base noted most 
prominently along left flank and right shin 
 
Pertinent Results:
ADMISSION:

___ 08:36PM BLOOD WBC-16.0*# RBC-4.07* Hgb-12.3* Hct-36.8* 
MCV-90 MCH-30.2 MCHC-33.4 RDW-11.5 RDWSD-38.3 Plt ___
___ 08:36PM BLOOD Neuts-77.2* Lymphs-9.9* Monos-11.0 
Eos-0.9* 
Baso-0.3 Im ___ AbsNeut-12.32*# AbsLymp-1.58 AbsMono-1.75* 
AbsEos-0.15 AbsBaso-0.04
___ 08:36PM BLOOD UreaN-14 Creat-0.9 Na-136 K-4.2 Cl-96 
HCO3-25 AnGap-19
___ 08:36PM BLOOD ALT-37 AST-34 AlkPhos-84 TotBili-0.3
___ 08:36PM BLOOD Albumin-3.6 Calcium-8.5
___ 08:36PM BLOOD TSH-0.49
___ 08:36PM BLOOD HIV Ab-Negative
___ 10:04PM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 08:36PM BLOOD CRP->300

                            **FINAL REPORT ___

   MONOSPOT (Final ___: 
      NEGATIVE by Latex Agglutination. 
           (Reference Range-Negative). 

DISCHARGE:

___ 06:42AM BLOOD WBC-14.5* RBC-4.23* Hgb-12.6* Hct-39.2* 
MCV-93 MCH-29.8 MCHC-32.1 RDW-11.9 RDWSD-40.8 Plt ___

PERTINENT:

___ 03:45PM BLOOD Albumin-3.2*
___ 06:10AM BLOOD Albumin-2.9* Calcium-8.2* Phos-3.0 Mg-2.1 
Iron-27*
___ 06:00AM BLOOD Albumin-2.7* Calcium-8.5 Phos-2.7 Mg-1.9
___ 06:10AM BLOOD calTIBC-159* Ferritn-572* TRF-122*
___ 06:00AM BLOOD ANCA-NEGATIVE B
___ 06:00AM BLOOD RheuFac-11 ___

___ 04:34PM BLOOD Lactate-2.1*
___ 03:45PM URINE RBC-6* WBC-1 Bacteri-NONE Yeast-NONE 
Epi-0

 **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

___ 7:40 am SPUTUM      Source: Induced.

   ACID FAST CULTURE (Preliminary): 

   MTB Direct Amplification (Preliminary): 
      M. TUBERCULOSIS DNA NOT DETECTED BY NAAT: A negative NAAT 
cannot rule
      out TB  or other mycobacterial infection. 
      . 
      NAAT results will be followed by confirmatory testing with
      conventional culture and DST methods. This TB NAAT method 
has not
      been approved by FDA for clinical diagnostic purposes. 
However, ___
      Laboratory Institute (___) has established assay 
performance by
      in-house validation in accordance with ___ standards. 
      . 
      PERFORMED AT THE ___, ___. 
      . 
      RESULT REC'D BY PHONE-SAMPLE WILL BE FINALIZED UPON 
RECEIPT OF
      WRITTEN REPORT.

___ 6:00 pm SPUTUM      Source: Induced. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

Time Taken Not Noted     Log-In Date/Time: ___ 3:28 am
      SPUTUM      Source: Induced. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 6:10 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 12:19 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 3:45 pm URINE      GRAY TOP . 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

___ 1:29 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING:
===========

CHEST (PA & LAT) ___

The patient shows a large cavitary mass located in the left 
upper lobe.  The mass shows a thick wall and a large air-fluid 
level.  Given the age of the patient, a cavitary malignancy is 
unlikely and the lesion most likely reflects a large lung 
abscess.  Immediate further workup is required. 
No pleural effusions.  Normal size of the heart.  No pulmonary 
edema. 

CT CHEST W/CONTRAST ___

1. 6.3 x 7.0 x 6.0 cm pulmonary abscess in the left upper lobe.  
The 
differential includes bacterial abscess vs pulmonary 
tuberculosis or other 
fungal etiology.  Malignancy is less likely, but not excluded. 
2. Small left pleural effusion. 
3. Prominent mediastinal lymph nodes without pathologic 
enlargement.  Ovoid 
calcified structure noted near the GE junction, possibly a 
calcified lymph 
node. 

                           
 
Brief Hospital Course:
Mr. ___ is a ___ with a history of mild untreated 
psoriasis and otherwise healthy who presented with 3 weeks of 
flu-like symptoms and relapsing/remitting fevers, found to have 
leukocytosis and lung abscess in his left upper lobe. 

# Lung abscess: 
Given presentation, leukocytosis, started on broad spectrum 
antibiotics and he was ruled out for TB, PPD negative. Initially 
started on unasyn/vanc after which he defervesced. Vanc was 
discontinued after MRSA swab tested negative. Pulmonology 
consulted and given improvement on Unasyn was transitioned to 
Augmentin PO BID upon discharge to be continued until his follow 
up with pulmonology in clinic. Autoimmune panel sent as well and 
was negative. Pulm follow up and repeat imaging 1 month from 
discharge. Patient was discharged afebrile with normal vitals on 
oral regimen on day 4. 

# Hypoalbuminemia, prolonged ___
Likely secondary to acute inflammatory state given low-normal po 
intake at home. Nutrition was consulted and recommended ensure 
supplements with meals. Elevated INR likely explained by 
increased metabolic demand with known abscess; began to 
downtrend following Vitamin K supplementation. Received 3-day 
course 5mg po daily. Please repeat following completed course of 
antibiotics. 

# Anemia
Iron studies revealed low serum iron and elevated ferritin, 
suggestive of anemia of inflammation. Patient not 
symptomatically anemic. Recommended follow-up CBC as outpatient. 


Medications started:
[ ]Augmentin 875mg bid (ongoing until pulm followup)
[ ]Phytonadione 5mg for 1 more day

TRANSITIONAL ISSUES

#Lung abscess
-At f/u, evaluate for recurrence of fevers or worsening 
respiratory symptoms. 
-Started on Augmentin 875 mg BID PO until follow-up (end date: 
TBD by pulm)

#Anemia of inflammation
#Nutrition: low albumin and elevated INR at admission (1.4). INR 
improving with Vit K supplement.
-F/u albumin and repeat INR
-F/u CBC for resolution of anemia
-S/p 3 days of vitamin K (last day ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet by mouth 
twice a day Disp #*60 Tablet Refills:*0 
2.  Phytonadione 5 mg PO DAILY Duration: 1 Dose 
RX *phytonadione (vitamin K1) [Mephyton] 5 mg 1 tablet(s) by 
mouth DAILY Disp #*1 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
-Lung abscess, secondary bacterial pneumonia following viral 
illness

Secondary diagnosis
-Malnutrition 
-Anemia of inflammation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

What happened while you were here:

You were admitted to ___ after 3 weeks of a flu-like illness 
with relapsing and remitting fevers. You were found to have a 
high white blood cell count and a lung infection on chest x-ray 
at your primary doctor's office. 

While you were here, you were treated for a bacterial lung 
infection that we think you were predisposed to after a flu-like 
illness. You were initially put on contact precautions until you 
could be ruled out for tuberculosis. We had low suspicion for 
this diagnosis, but it can sometimes present on imaging like 
your infection.

You were started on broad antibiotics with Unasyn and 
Vancomycin. We were able to stop the vancomycin after your MRSA 
swab came back negative. We discharged you on an oral agent 
similar to unasyn, called Augmentin. You will take this medicine 
twice a day until you follow up with pulmonology.

The pulmonology team followed you while you were here and 
provided recommendations along the way. Their office will 
contact you to schedule an appointment in about 4 weeks' time; 
you will have repeat imaging then to ensure your infection is 
resolving. 

What you'll need to do after you go: 

Please plan to follow up with your primary care physician and 
the pulmonology team (who will contact you). You have a 
pre-existing appointment with Dr. ___ in ___ (see below); an 
earlier appointment could not be arranged over the weekend. You 
should plan to contact the office at business hours to see if 
they can see you sooner. 

You should expect the cough as the antibiotics clears the 
infection. If your fevers are not resolving or worsen, then you 
should plan to see your primary care doctor as soon as possible. 


We encourage you to take a daily multi-vitamin which can be 
bought over-the-counter. 

It was a pleasure taking care of you and we wish you the best!

Sincerely, 
Your ___ Team 
 
Followup Instructions:
___